US07741341B2
(ii) 1-(4-Amino-phenyl)-1H-pyrazin-2-one
To a solution of 520 mg 1-(4-Nitro-phenyl)-1H-pyrazin-2-one in 26 mL ethyl acetate and 1.3 mL ethanol, 2.7 g SnCl2 dihydrate were added and the reaction mixture was heated to reflux for 6 h. Then, after cooling to RT the mixture was stirred for 16 h. The precipitated product was collected by filtration and was pure enough for the next reaction step. Yield: 450 mg.

reactant | 1-(4-Nitro-phenyl)-1H-pyrazin-2-one | 520 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C=NC=C1)=O | C10H7N3O3
solvent | ethyl acetate | 26 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
product | 1-(4-Amino-phenyl)-1H-pyrazin-2-one | NC1=CC=C(C=C1)N1C(C=NC=C1)=O | C10H9N3O
